### PR TITLE
Add Erdős Problem 814 (small induced subgraphs of minimum degree k), link the formal proof

### LINKED ISSUE #6384: Erdős Problem 814
### What is the Erdős problem?

https://www.erdosproblems.com/814

Let $k\geq 2$ and $G$ be a graph with $n\geq k-1$ vertices and $(k-1)(n-k+2)+\binom{k-2}{2}+1$ edges. Does there exist some $c_k>0$ such that $G$ must contain an induced subgraph on at most $(1-c_k)n$ vertices with minimum degree at least $k$?

Status: proved (Sauermann [Sa19]). A formal proof exists in plby/lean-proofs (`Erdos814.erdos_814`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6384.

### What changed
Adds `FormalConjectures/ErdosProblems/814.lean`:
- `erdos_814` (`research solved`, `answer(True)`): the Erdős–Faudree–Rousseau–Schelp conjecture, proved by Sauermann [Sa19].
- `variants.at_least`: the same with at least the threshold number of edges.

Both linked to plby/lean-proofs `Erdos814.erdos_814` / `erdos_814_atLeast` (Codex and GPT-5.6 Sol; 13 Mathlib-only files).
- Sorry'd variant: Sauermann's quantitative `c_k ≫ 1/k³`.

### How checked
- Rebuilt plby's closure against this repo's Mathlib: `#print axioms Erdos814.erdos_814` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statements on top of a renamed copy, same axioms (statements coincide up to the classical decidability instances):

<details>
<summary>Bridge</summary>

```lean
open Filter Real SimpleGraph

namespace Bridge814

lemma edgeThreshold_eq (k n : ℕ) :
    Erdos814Plby.edgeThreshold k n = (k - 1) * (n + 2 - k) + (k - 2).choose 2 + 1 := rfl

theorem erdos_814_bridge : type_of% Erdos814.erdos_814 := by
  show True ↔ _
  simp only [true_iff]
  intro k hk
  obtain ⟨c, hc, h⟩ := Erdos814Plby.erdos_814 k hk
  refine ⟨c, hc, fun n hn G hG => ?_⟩
  classical
  obtain ⟨S, hS, hcard, hmin⟩ := h n hn G (by rw [edgeThreshold_eq]; convert hG)
  exact ⟨S, hS, hcard, by convert hmin⟩

theorem at_least : type_of% Erdos814.erdos_814.variants.at_least := by
  intro k hk
  obtain ⟨c, hc, h⟩ := Erdos814Plby.erdos_814_atLeast k hk
  refine ⟨c, hc, fun n hn G hG => ?_⟩
  classical
  obtain ⟨S, hS, hcard, hmin⟩ := h n hn G (by rw [edgeThreshold_eq]; convert hG)
  exact ⟨S, hS, hcard, by convert hmin⟩

#print axioms Erdos814Plby.erdos_814
#print axioms erdos_814_bridge
#print axioms at_least

end Bridge814
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«814»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/814.lean [hunk 1]
```diff
@@ -0,0 +1,88 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/814.lean:2]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
